US08076345B2
5-Methyl-2-(4-(quinolin-7-ylmethylamino)-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)benzonitrile
A reaction mixture of 2-(4-chloro-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)-5-methylbenzonitrile (480 mg, 1.69 mmol) and quinolin-7-ylmethanamine (400 mg, 2.53 mmol) in acetonitrile (5 mL) and N,N-diisopropylethylamine (1.5 mL, 8.6 mmol) was subjected to microwave irradiation at 185° C. for 3.5 h. The reaction mixture was concentrated and the residue was purified by semi-prep HPLC (100×20.2 mm, C18 column; 30-60% acetonitrile-water [10 mM diethylamine]) to yield an off white solid.

reactant | 2-(4-chloro-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)-5-methylbenzonitrile | 1.69 mmol, 480 mg | ClC=1C2=C(N=CN1)CCN(C2)C2=C(C#N)C=C(C=C2)C | C15H13ClN4
reactant | quinolin-7-ylmethanamine | 2.53 mmol, 400 mg | N1=CC=CC2=CC=C(C=C12)CN | C10H10N2
reactant | N,N-diisopropylethylamine | 8.6 mmol, 1.5 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | 5-Methyl-2-(4-(quinolin-7-ylmethylamino)-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)benzonitrile | CC=1C=CC(=C(C#N)C1)N1CC2=C(N=CN=C2NCC2=CC=C3C=CC=NC3=C2)CC1 | C25H22N6
